US04034098
3-[2-(4-Cyclohexanesulphonamido-1-piperidyl)ethyl]indole
Using an analogous procedure to Example 1 3-[2-(4-amino-1-piperidyl)ethyl]indole monohydrate may be reacted with cyclohexanesulphonyl chloride to give the title compound.

reactant | 3-[2-(4-amino-1-piperidyl)ethyl]indole monohydrate | O.NC1CCN(CC1)CCC1=CNC2=CC=CC=C12
reactant | cyclohexanesulphonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
product | 3-[2-(4-Cyclohexanesulphonamido-1-piperidyl)ethyl]indole | C1(CCCCC1)S(=O)(=O)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C21H31N3O2S
